US06043242
23. 6-[3-(2-Methoxymethyl-3-methylpyridin-4-ylsulfanyl)-propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine
A solution of sodium methanolate (0.69 ml of a 30% strength solution) is added to a suspension of 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)-propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine (1.23 g, 3 mmol) in methanol (75 ml). After heating under reflux for 16 h and cooling to room temperature the solvent is evaporated in vacuo. The residue is chromatographed (silica, toluene/dioxane 5:1) and crystallized from diisopropylether/ethyl acetate to give the title compound as off-white crystals, 0.34 g (28 %). M.p. 107-110° C.

reactant | sodium methanolate | C[O-].[Na+]
reactant | 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)-propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine | 3 mmol, 1.23 g | ClCC1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C16H16ClN5O2S2
solvent | methanol | 75 ml | CO | CH4O
product | 6-[3-(2-Methoxymethyl-3-methylpyridin-4-ylsulfanyl)-propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine | COCC1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C17H19N5O3S2
